US04877792
4-Methoxymethyl-6-(2-pyrimidinyloxy)-β-carboline-3-carboxylic Acid Ethyl Ester
Analogously to Example 8 from 6-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester and 2-chloropyrimidine, mp 128°-129° C.

reactant | 6-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)O | C16H16N2O4
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 4-Methoxymethyl-6-(2-pyrimidinyloxy)-β-carboline-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OC1=NC=CC=N1 | C20H18N4O4
